US04906402
(b) Hexyl (R)-2-[4-(5-nonyl-1,3-dioxin-2-yl)phenoxy]propanoate (HNDPP)
A mixture of 2-hydroxymethyl-1-undecanol (10 mmole) HFPP (10 mmole) and p-toluenesulphonic acid (50 mg) in toluene (50 ml) was heated at reflux while allowing water to distil out. When reaction was complete the excess toluene was removed by distillation and the product allowed to cool before dilution with dichloromethane. After washing with saturated NaHCO3 solution the mixture was distilled to give a colourless liquid identified as NDPP by IR, 1H NMR and mass spectroscopy and elemental analysis (yield: 68%; bp: 230°-40° C. at 0.3 mbar; SOR: 5.9,c=3). The product was a 85:15 mixture of the trans and cis isomers.

reactant | 2-hydroxymethyl-1-undecanol | 10 mmole | OCC(CO)CCCCCCCCC | C12H26O2
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | NDPP | CN(C)CCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Hexyl (R)-2-[4-(5-nonyl-1,3-dioxin-2-yl)phenoxy]propanoate | yield: 68% | C(CCCCCCCC)C=1COC(OC1)C1=CC=C(O[C@@H](C(=O)OCCCCCC)C)C=C1 | C28H44O5
